US05559230
To a solution of 5-methylamino-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.6 g) in dichloromethane (10 ml) is added triethylamine (0.24 ml). Subsequently, thereto is added methanesulfonyl chloride (0.14 ml) under ice-cooling, and then, the mixture is warmed to room temperature and stirred overnight. Water is added to the reaction solution, extracted three times with dichloromethane. The extract is washed with saturated saline solution, and dried over magnesium sulfate. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=20:1), and recrystallized from ethanol to give 5-(N-methyl-N-methanesulfonylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.48 g) as colorless scales, m.p. 197°-198° C.

reactant | 5-methylamino-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.6 g | CNC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C26H27N3O2
reactant | triethylamine | 0.24 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.14 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(N-methyl-N-methanesulfonylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.48 g | CN(S(=O)(=O)C)C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C27H29N3O4S
